US06818655B2
b) 1-Aminomethyl-cyclohexanecarboxylic Acid Amide Hydrochloride
A solution of 1-cyano-cyclohexanecarboxylic acid amide (2.34 g, 20.0 mmol) in ethanol (50 mL) was treated with concentrated HCl (3 mL) and 10% degussa palladium on carbon (0.50 g). The mixture was subjected to hydrogenation conditions (50 psi) for 24 hours, then filtered through Celite. The filtrate was concentrated, then azeotroped with methanol to give a viscous oil. The oil was then resubjected to the above hydrogenation conditions for an additional 20 hours. It was filtered and concentrated as above to give the product (3.85 g, 100%) as a white solid. [M+H]+ 157.

reactant | 1-cyano-cyclohexanecarboxylic acid amide | 20.0 mmol, 2.34 g | C(#N)C1(CCCCC1)C(=O)N | C8H12N2O
reactant | HCl | 3 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
product | 1-Aminomethyl-cyclohexanecarboxylic Acid Amide Hydrochloride | 3.85 g, 100% | Cl.NCC1(CCCCC1)C(=O)N | InChI=1S/C8H16N2O.ClH/c9-6-8(7(10)11)4-2-1-3-5-8;/h1-6,9H2,(H2,10,11);1H
